US07459106B2
Preparation of tetraethyl p-xylylenebisphosphonate (25) (Piechucki, C. Synthesis, 1976, 187).
A mixture of α,α′-dichloro-p-xylene (20 g, 0.114 mol) and triethyl phosphite (60 ml) was refluxed at 180° C. overnight. 80 ml of hexanes was added, and white crystals were formed immediately. Then the mixture was cooled at 0° C., and the product was collected, washed three times with 40 ml of hexanes and isolated in 94.4% (40.8 g) yield.

reactant | α,α′-dichloro-p-xylene | 0.114 mol, 20 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | triethyl phosphite | 60 ml | P(OCC)(OCC)OCC | C6H15O3P
product | tetraethyl p-xylylenebisphosphonate | C1(=CC=C(C=C1)CP(OCC)(OCC)=O)CP(OCC)(OCC)=O | C16H28O6P2
